** sch_path: /foss/designs/my_design/projects/pll/bandgapref/xschem_ngspice/mos_bandgap_baker5.sch
**.subckt mos_bandgap_baker5
VDD VDD GND 3
Vmeas Vin- net1 0
.save i(vmeas)
Vmeas1 Vin+ Vbe2 0
.save i(vmeas1)
x1 VDD V_PTAT Vin- Vin+ GND opamp_bandgap2
XQ1 GND GND net2 sky130_fd_pr__pnp_05v5_W0p68L0p68 m=3
XQ2 GND GND Vbe2 sky130_fd_pr__pnp_05v5_W0p68L0p68 m=1
XR1 net2 net1 GND sky130_fd_pr__res_xhigh_po_0p69 L=0.69 mult=1 m=1
XM1 Vin- V_PTAT VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=4 nf=4 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 Vin+ V_PTAT VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=4 nf=4 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
x2 VDD V_CTAT Vres2 Vbe2 GND opamp_bandgap2
XR2 GND net5 GND sky130_fd_pr__res_xhigh_po_0p69 L=13.9 mult=1 m=1
XM3 Vres2 V_CTAT VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=4 nf=4 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 net7 V_CTAT VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=4 nf=4 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 net6 V_PTAT VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XR3 GND net8 GND sky130_fd_pr__res_xhigh_po_0p69 L=16 mult=1 m=1
XM8 VGS_10 V_PTAT VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=4 nf=4 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM9 net3 VGS_10 V_PTAT VDD sky130_fd_pr__pfet_01v8 L=0.15 W=4 nf=4 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM10 net4 VGS_10 net9 GND sky130_fd_pr__nfet_01v8 L=5 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
Vmeas2 Vres2 net5 0
.save i(vmeas2)
Vmeas3 net7 Vref 0
.save i(vmeas3)
Vmeas4 net6 Vref 0
.save i(vmeas4)
Vmeas5 Vref net8 0
.save i(vmeas5)
Vmeas6 net3 Vin- 0
.save i(vmeas6)
Vmeas7 VGS_10 net4 0
.save i(vmeas7)
XM11 net9 net9 net10 GND sky130_fd_pr__nfet_01v8 L=5 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM12 net10 net10 GND GND sky130_fd_pr__nfet_01v8 L=5 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
**** begin user architecture code

.param mc_mm_switch=0
.param mc_pr_switch=0
.include /foss/pdks/sky130A/libs.tech/ngspice/corners/tt.spice
.include /foss/pdks/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical.spice
.include /foss/pdks/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice
.include /foss/pdks/sky130A/libs.tech/ngspice/corners/tt/specialized_cells.spice




.option method=gear
.option wnflag=1
.option savecurrents

.save
+@m.xm1.msky130_fd_pr__pfet_01v8[gm]
+@m.xm2.msky130_fd_pr__pfet_01v8[gm]
+@m.xm3.msky130_fd_pr__pfet_01v8[gm]
+@m.xm4.msky130_fd_pr__pfet_01v8[gm]
+@m.xm5.msky130_fd_pr__pfet_01v8[gm]
+@m.xm6.msky130_fd_pr__pfet_01v8[gm]
+@m.xm7.msky130_fd_pr__pfet_01v8[gm]
+@m.xm8.msky130_fd_pr__pfet_01v8[gm]
+@m.xm9.msky130_fd_pr__pfet_01v8[gm]
+@m.xm10.msky130_fd_pr__nfet_01v8[gm]
+@m.xm11.msky130_fd_pr__nfet_01v8[gm]
+@m.xm12.msky130_fd_pr__nfet_01v8[gm]


.control
  save all
  op
  dc VDD 1.4 3.3 0.1 temp -40 120 1
  * tran 1ns 40us
  remzerovec
  write mos_bandgap_baker5.raw
  set appendwrite
.endc




**** end user architecture code
**.ends

* expanding   symbol:  /foss/designs/my_design/projects/pll/bandgapref/xschem_ngspice/opamp_bandgap2.sym # of pins=5
** sym_path: /foss/designs/my_design/projects/pll/bandgapref/xschem_ngspice/opamp_bandgap2.sym
** sch_path: /foss/designs/my_design/projects/pll/bandgapref/xschem_ngspice/opamp_bandgap2.sch
.subckt opamp_bandgap2 VDDA Vout Vin- Vin+ GNDA
*.ipin Vin+
*.opin Vout
*.ipin Vin-
*.ipin GNDA
*.ipin VDDA
XM2 net2 Vin- net1 GNDA sky130_fd_pr__nfet_01v8 L=0.6 W=2 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 Vout Vin+ net1 GNDA sky130_fd_pr__nfet_01v8 L=0.6 W=2 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM1 net1 net1 GNDA GNDA sky130_fd_pr__nfet_01v8 L=0.6 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 Vout net2 VDDA VDDA sky130_fd_pr__pfet_01v8 L=0.6 W=4 nf=4 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 net2 net2 VDDA VDDA sky130_fd_pr__pfet_01v8 L=0.6 W=4 nf=4 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends

.GLOBAL GND
.GLOBAL VDD
.end
